US07144909B2
Methyl[3,5-dibromo-4-(4-hydroxy-3-iodophenoxy)phenyl]propionate (17 mg), 3-tolylacetylene (20 mg) and bis(triphenylphosphine)palladium(II) chloride (2.0 mg), copper(I) iodide (1.0 mg) and triethylamine (1 mL) was stirred at reflux. After 2 hours, the reaction mixture was cooled down, dichloromethane was added and washed once with a saturated solution of aqueous ammonium chloride. The organic phase concentrated and the residue purified on column (silica gel, n-heptane/ethyl acetate 8:2), to give 19 mg of methyl {3,5-dibromo-4-[2-(3-tolyl)-5-benzofuranyloxy]phenyl}propionate as a pale yellow solid mass. 1H-NMR (270 MHz, Acetone-d6): δ 7.68 (s, 2H), 7.53 (dd, 1H), 7.36 (t, 2H), 7.21 (d, 2H), 6.89 (m, 2H), 3.64 (s, 3H), 2.98 (t, 2H), 2.74 (t, 2H), 2.40 (s, 3H).

reactant | Methyl[3,5-dibromo-4-(4-hydroxy-3-iodophenoxy)phenyl]propionate | 17 mg | CC(C(=O)[O-])(C)C1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)O)I)Br
reactant | 3-tolylacetylene | 20 mg | C1(=CC(=CC=C1)C#C)C | C9H8
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.0 mg | [Cu]I
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl {3,5-dibromo-4-[2-(3-tolyl)-5-benzofuranyloxy]phenyl}propionate | 19 mg | BrC=1C=C(C=C(C1OC=1C=CC2=C(C=C(O2)C=2C=C(C=CC2)C)C1)Br)C(C(=O)OC)C | C25H20Br2O4
